US06890947B2
In analogy to the procedure described in example 44, rac-3-(1H-indol-5-yl)-2-propoxy-propionic acid methyl ester (preparation 6) was reacted with 4-chloromethyl-5-methyl-2-(4-trifluoromethyl-phenyl)-oxazole to give rac-3-1-[5-methyl-2-(4-trifluoromethyl-phenyl)-oxazol-4-yl methyl]-1H-indol-5-yl}-2-propoxy-propionic acid as light yellow solid.

reactant | rac-3-(1H-indol-5-yl)-2-propoxy-propionic acid methyl ester | COC(C(CC=1C=C2C=CNC2=CC1)OCCC)=O | C15H19NO3
reactant | 4-chloromethyl-5-methyl-2-(4-trifluoromethyl-phenyl)-oxazole | ClCC=1N=C(OC1C)C1=CC=C(C=C1)C(F)(F)F | C12H9ClF3NO
product | 2-propoxy-propionic acid | C(CC)OC(C(=O)O)C | C6H12O3
